US06962914B2
A solution of 5,7-dichloro-2-(4-methoxyphenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridine (148 mg, 0.35 mmol) in cyclopentylamine (5 mL) was heated at 80° C. for 3 hours. After cooling to room temperature, ethyl acetate was added to the reaction mixture. The organic phase was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration followed by chromatography (4:1 hexanes/ethyl acetate) gave N-{5-chloro-2-(4-methoxyphenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-yl}-N-cyclopentylamine (141 mg, 85%) as a yellow foam. 1H NMR (CDCl3) δ 8.15 (d, 1H), 7.84 (d, 1H), 7.51 (d, 2H), 6.99 (d, 2H), 6.65 (d, 1H), 6.09 (d, 1H), 6.02 (d, 1H), 3.96 (m, 1H), 3.88 (s, 3H), 2.63 (s, 3H), 2.15 (m, 2H), 1.81-1.69 (m, 6H). MS m/z 466 (M+1).

reactant | 5,7-dichloro-2-(4-methoxyphenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridine | 0.35 mmol, 148 mg | ClC1=CC=2N(C(=C1)Cl)N=C(C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)OC | C19H14Cl2N4OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cyclopentylamine | 5 mL | C1(CCCC1)N | C5H11N
product | N-{5-chloro-2-(4-methoxyphenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-yl}-N-cyclopentylamine | 141 mg, 85% | ClC1=CC=2N(C(=C1)NC1CCCC1)N=C(C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)OC | C24H24ClN5OS
